US04950824
A process for the production of 2,6-diisopropylnaphthalene is disclosed wherein an isopropylation reaction mixture containing isopropylated naphthalenes is subjected to transalkylation with a triisopropylnaphthalene-containing mixture to obtain a mixture containing mono-, di- and tri-isopropylnaphthalenes which is then separated into a first fraction containing monisopropylnaphthalenes, a second fraction containing diisopropylnaphthalenes and a third fraction containing triisopropylnaphthalenes. The first and third fractions are recycled to the above system, while the second fraction is subjected to separation treatments for the recovery of 2,6-diisopropylnaphthalene. The second fraction from which 2,6-diisopropylnaphthalene has been removed is subjected to transalkylation with naphthalene to obtain a monoisopropylnaphthalene-rich mixture which is to be fed to the isopropylation step.

reactant | 2,6-diisopropylnaphthalene | C(C)(C)C1=CC2=CC=C(C=C2C=C1)C(C)C | C16H20
reactant | triisopropylnaphthalene | C(C)(C)C=1C(=C(C2=CC=CC=C2C1)C(C)C)C(C)C | C19H26
product | monoisopropylnaphthalene | C(C)(C)C1=CC=CC2=CC=CC=C12 | C13H14
